US08034812B2
Production of N-[3-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]-N′-[4-(trifluoromethyl)phenyl]urea
To a solution of 3-(imidazo[1,2-b]pyridazin-6-yloxy)aniline (113 mg, 0.50 mmol) and triethylamine (0.040 mL, 0.29 mmol) in tetrahydrofuran (10 mL) was added 4-(trifluoromethyl)phenyl isocyanate (0.100 mL, 0.70 mmol), and the mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated under reduced pressure, and the residue was precipitated from methanol to give the title compound (103 mg, 50%) as a white powder.

reactant | 3-(imidazo[1,2-b]pyridazin-6-yloxy)aniline | 0.50 mmol, 113 mg | N=1C=CN2N=C(C=CC21)OC=2C=C(N)C=CC2 | C12H10N4O
reactant | triethylamine | 0.29 mmol, 0.040 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)phenyl isocyanate | 0.70 mmol, 0.100 mL | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[3-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]-N′-[4-(trifluoromethyl)phenyl]urea | 103 mg, 50% | N=1C=CN2N=C(C=CC21)OC=2C=C(C=CC2)NC(=O)NC2=CC=C(C=C2)C(F)(F)F | C20H14F3N5O2
